US05688954
A solution of 4-hydroxybutyl 3-pyridyl ketone (66.4 g) in tetrahydrofuran (664 ml) under nitrogen at room temperature is treated with methane-sulphonyl chloride (31.6 ml). The mixture is then cooled to 0° C. and treated with N,N-diisopropylethylamine (155 ml), continuously, during 30 minutes, maintaining the temperature below 5° C., and it is stirred for a further period of 10 minutes. The mixture is warmed to 20° C. and is then treated with thioacetic acid during 10 minutes, maintaining the temperature at below 25° C. The mixture is stirred for 2 hours at 35° C. and is then cooled to 20° C. and treated with water (660 ml). The mixture is extracted twice with t-butyl methyl ether (660 ml and 300 ml). The combined extracts are washed with water (2×1300 ml), dried over magnesium sulphate, then treated with decolourising charcoal (8.7 g) and the mixture is stirred for 10 minutes. After filtration, the solvent is removed by evaporation under reduced pressure, to give S-(4-nicotinoylbutyl) thioacetate (80.7 g) in the form of an oil. This oil is dissolved in t-butyl methyl ether (1200 ml) and the solution is treated with methanesulphonic acid (22.1 ml), dropwise, with stirring, then it is stirred for 1 hour and then cooled to 0° C. for 1 hour. The mixture is filtered and the resulting yellow solid is dried with suction at room temperature, to give 3-(5-acetylmercaptopentanoyl)pyridinium methanesulphonate (91.4 g), m.p. 103°-105° C. [NMR (DMSO-d6): 1.6(m,2H), 1.7(m,2H), 2.3(s,3H), 2.4(s,3H), 2.9(t,2H), 3.2(t,2H), 7.9(dd,1H), 8.7(dt,1H), 9.0(dd,1H), 9.3(d,1H)].

reactant | 4-hydroxybutyl 3-pyridyl ketone | 66.4 g | N1=CC(=CC=C1)C(=O)CCCCO | C10H13NO2
reactant | methane-sulphonyl chloride | 31.6 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | N,N-diisopropylethylamine | 155 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | thioacetic acid | C(C)(=S)O | C2H4OS
solvent | tetrahydrofuran | 664 ml | O1CCCC1 | C4H8O
solvent | water | 660 ml | O | H2O
product | S-(4-nicotinoylbutyl) thioacetate | 80.7 g | C(C)(=O)SCCCCC(C1=CN=CC=C1)=O | C12H15NO2S
